### PR TITLE
Add `BlockPtr.setArguments` and `BlockPtr.pushArgument`

### PR DESCRIPTION
**Pull request by math-fehr**
Both methods were missing. Their `GetSet` lemmas have been added as well.

### CODE REVIEW

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -778,6 +778,15 @@ theorem BlockPtr.getArgument_block {block : BlockPtr} {index : Nat} :
     (BlockPtr.getArgument block index).block = block := by
   grind [getArgument]
 
+def BlockPtr.setArguments (block: BlockPtr) (ctx: IRContext)
```
Comment (luisacicolini) [inline Veir/IR/Basic.lean:781]: I have the same concern with a namespace for `BlockPtr` - but that should be refactored separately from this PR

File: Veir/IR/GetSet.lean [hunk 2]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
     opOperandPtr.get! (BlockOperandPtr.setValue operand' ctx newValue hoperand') =
     opOperandPtr.get! ctx := by
   grind
+
+/- BlockPtr.setArguments -/
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:5977]:
```suggestion
/-! ### BlockPtr.setArguments -/
```
This would be more canonical (although I see that the file has a different style, so feel free to ignore)

File: Veir/IR/GetSet.lean [hunk 3]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+
+@[simp, grind =]
+theorem IRContext.topLevelOp_BlockPtr_setArguments :
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:5980]: here again I am wondering if there's a better way to handle namespaces and group lemmas differently? I would be happy to go through the repo organization together and see where things live

File: Veir/IR/GetSet.lean [hunk 4]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+    blockOperandPtr.get! ctx := by
+  grind
+
+@[grind =]
+theorem BlockPtr.getNumArguments!_BlockPtr_setArguments {block : BlockPtr} :
+    block.getNumArguments! (BlockPtr.setArguments block' ctx newArguments hblock') =
+    if block = block' then
+      newArguments.size
+    else
+      block.getNumArguments! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6081]:
```suggestion
    if block = block' then newArguments.size else block.getNumArguments! ctx := by
```

Comment (luisacicolini) [reply Veir/IR/GetSet.lean:6081]: I find this more readable, but feel free to ignore

File: Veir/IR/GetSet.lean [hunk 5]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+  grind
+
+@[grind =]
+theorem BlockArgumentPtr.get!_BlockPtr_setArguments {blockArg : BlockArgumentPtr} :
+    blockArg.get! (BlockPtr.setArguments block' ctx newArguments hblock') =
+    if blockArg.block = block' then
+      newArguments[blockArg.index]!
+    else
+      blockArg.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6090]:
```suggestion
    blockArg.get! (BlockPtr.setArguments block' ctx newArguments hblock') =
    if blockArg.block = block' then newArguments[blockArg.index]! else blockArg.get! ctx := by
```
same as above

File: Veir/IR/GetSet.lean [hunk 6]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+
+@[grind =]
+theorem ValuePtr.getFirstUse!_BlockPtr_setArguments {value : ValuePtr} :
+    value.getFirstUse! (BlockPtr.setArguments block' ctx newArguments hblock') =
+    match value with
+    | .blockArgument arg =>
+      if arg.block = block' then
+        newArguments[arg.index]!.firstUse
+      else
+        value.getFirstUse! ctx
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6107]:
```suggestion
      if arg.block = block' then newArguments[arg.index]!.firstUse else value.getFirstUse! ctx
```
same as above

File: Veir/IR/GetSet.lean [hunk 7]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+@[grind =]
+theorem ValuePtr.getType!_BlockPtr_setArguments {value : ValuePtr} :
+    value.getType! (BlockPtr.setArguments block' ctx newArguments hblock') =
+    match value with
+    | .blockArgument arg =>
+      if arg.block = block' then
+        newArguments[arg.index]!.type
+      else
+        value.getType! ctx
+    | .opResult _ =>
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6121]: I'm not a huge fan of a `match` statement in the statement - is there a reason why we want this? As an alternative, I would considering splitting the lemma into two, passing an hypothesis over the constructor of value (this is similar to what we do with definitions using induction on naturals: we have a lemma for `_succ` and a lemma for `_zero`).

File: Veir/IR/GetSet.lean [hunk 8]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+  grind
+
+@[grind =]
+theorem OpOperandPtrPtr.get!_BlockPtr_setArguments {opOperandPtr : OpOperandPtrPtr} :
+    opOperandPtr.get! (BlockPtr.setArguments block' ctx newArguments hblock') =
+    match opOperandPtr with
+    | .valueFirstUse (.blockArgument arg) =>
+      if arg.block = block' then
+        newArguments[arg.index]!.firstUse
+      else
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6132]: same concern as above

File: Veir/IR/GetSet.lean [hunk 9]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+        opOperandPtr.get! ctx
+    | _ =>
+      opOperandPtr.get! ctx := by
+  grind
+
+/- OperationPtr.pushOperand -/
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6138]:
```suggestion
/-! ### OperationPtr.pushOperand -/
```
same style concern, feel free to ignore

File: Veir/IR/GetSet.lean [hunk 10]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+    blockOperandPtr.get! ctx := by
+  grind
+
+@[grind =]
+theorem BlockPtr.getNumArguments!_BlockPtr_pushArgument {block : BlockPtr} {hop} :
+    block.getNumArguments! (BlockPtr.pushArgument op ctx newOperand hop) =
+    if block = op then
+      block.getNumArguments! ctx + 1
+    else
+      block.getNumArguments! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6248]:
```suggestion
    if block = op then block.getNumArguments! ctx + 1 else block.getNumArguments! ctx := by
```

File: Veir/IR/GetSet.lean [hunk 11]
```diff
@@ -5973,3 +5973,322 @@ theorem OpOperandPtrPtr.get!_BlockOperandPtr_setValue {opOperandPtr : OpOperandP
...
+@[grind =]
+theorem BlockArgumentPtr.get!_BlockPtr_pushArgument {blockArg : BlockArgumentPtr} :
+    blockArg.get! (BlockPtr.pushArgument block' ctx newArgument hblock') =
+    if blockArg.block = block' then
+      if blockArg.index = (block'.getNumArguments! ctx) then
+        newArgument
+      else
+        blockArg.get! ctx
+    else
+      blockArg.get! ctx := by
```
Comment (luisacicolini) [inline Veir/IR/GetSet.lean:6260]: this seems not super readable to me, I would split it and pass hypotheses (also depends on whether you plan to expose this to users? if it's a theorem you only use rarely in some complex infra it's fine)

Comment (ineol) [reply Veir/IR/GetSet.lean:6260]: These lemmas (and the one with `match` above) are designed to be used by grind, so we want the LHS to be without hypothesis to be applicable by `grind`. This is supposed to mirror the hashmap lemmas in Lean, where the general lemma with a conditional on the RHS are annotated with grind, and the lemmas with hypothesis are annotated with `simp`. Maybe there are better ways, but that's the thinking behind it.

Comment (luisacicolini) [reply Veir/IR/GetSet.lean:6260]: ah got it, that makes sense!

File: Veir/IR/GetSet.lean (hunk 4 above)
Comment (tobiasgrosser) [reply Veir/IR/GetSet.lean:6081]: I would vote for the multi-line style, as it stands out more when scanning for `if then else` that should not have a `simp` tag.

File: Veir/IR/GetSet.lean (hunk 2 above)
Comment (math-fehr) [reply Veir/IR/GetSet.lean:5977]: I'm gonna make a refactoring PR for most files I think, so that we start getting consistent everywhere!

File: Veir/IR/GetSet.lean (hunk 3 above)
Comment (math-fehr) [reply Veir/IR/GetSet.lean:5980]: Yes let's do that!
Btw, the reasonning in having the lemmas that way is that it is super easy for me to add new methods.
The file is 6k lines of lean, but adding a new method is essentially copy-pasting one section and then changing the method name in there (and fixing the proofs that break).
Having everything grouped would mean that adding a new method is annoying, and we might miss some methods (which happened in the past)

File: Veir/IR/GetSet.lean (hunk 7 above)
Comment (math-fehr) [reply Veir/IR/GetSet.lean:6121]: The main reason we want to keep this lemma is that this is heavily helping `grind`.
When grind sees the `lhs`, it creates the `rhs`, and then `cases` on the match/if.
If we had only the two lemmas, then `grind` wouldn't know to `cases` here.
